US07795270B2
1-(3′-Triphenylsilyloxypropyl)uracil (24)
1-(3′-hydroxypropyl)uracil (0.193 g, 1.134 mmol) was dissolved in dry pyridine (4 mL) and cooled in an ice-salt bath. A solution of triphenylsilyl chloride (0.432 g, 1.46 mmol) in dry pyridine (3 mL) was added drop-wise. The reaction mixture was kept at 0° C. under nitrogen for 4 h30. As TLC monitoring evidenced the presence of unreacted starting material, more triphenyl silyl chloride (0.204 g, 0.69 mmol) in dry pyridine (1 mL) was added. After a further 15 min at 0° C., the reaction had reached completion and was quenched with CH3OH (50 μL). Removal of the solvent in vacuo afforded a crude yellow oil which was purified by silica gel chromatography, using a Jones Chromatography Isolute SI column eluted with a gradient of 0→5% CH3OH in CHCl3. The title compound was obtained as a white solid (0.392 g, 81%) from the fractions with Rf=0.52 (10% CH3OH/CHCl3). Some compound starting material was also recovered (34 mg, 18%).

reactant | 1-(3′-hydroxypropyl)uracil | 1.134 mmol, 0.193 g | OCCCN1C(=O)NC(=O)C=C1 | C7H10N2O3
reactant | triphenylsilyl chloride | 1.46 mmol, 0.432 g | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15ClSi
reactant | triphenyl silyl chloride | 0.69 mmol, 0.204 g | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15ClSi
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3′-Triphenylsilyloxypropyl)uracil | C1(=CC=CC=C1)[Si](OCCCN1C(=O)NC(=O)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O3Si
